US06156700
Preparation of 3-[3-(Azidomethyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione
A solution of 3-[3-(bromomethyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione (2.00 g, 4.76 mmol) in N,N-dimethylformamide is treated with sodium azide (0.325 g, 5.00 mmol), stirred overnight at room temperature, treated with 18-crown-6, stirred at room temperature for two hours, and poured into an ice-water mixture. The resultant aqueous mixture is filtered to obtain a solid. The solid is washed with water and air-dried to give the title product as a white solid which is identified by NMR spectral analysis.

reactant | 3-[3-(bromomethyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | 4.76 mmol, 2.00 g | BrCC1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C14H9BrF3N3O2S
reactant | sodium azide | 5.00 mmol, 0.325 g | [N-]=[N+]=[N-].[Na+]
reactant | 18-crown-6 | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 3-[3-(Azidomethyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | N(=[N+]=[N-])CC1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C14H9F3N6O2S
